US04970126
Synthesis of Acrylic Copolymer Resin
Except that 30 parts of methyl methacrylate, 198 parts of isobutyl acrylate, 30 parts of N-n-butoxymethylacrylamide, 15 parts of hydroxyethyl methacrylate and 27 parts of acrylic acid were used as the acrylic monomers, synthesis was carried out under conditions similar to those in Synthesis Example 1 to obtain a colorless, transparent resin solution having a solid content of 61%.

reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | isobutyl acrylate | C(C=C)(=O)OCC(C)C | C7H12O2
reactant | N-n-butoxymethylacrylamide | C(CCC)OCNC(C=C)=O | C8H15NO2
reactant | hydroxyethyl methacrylate | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | Acrylic Copolymer Resin | CCCCC(CC)COC(=O)C=C.CCCCOC(=O)C=C | InChI=1S/C11H20O2.C7H12O2/c1-4-7-8-10(5-2)9-13-11(12)6-3;1-3-5-6-9-7(8)4-2/h6,10H,3-5,7-9H2,1-2H3;4H,2-3,5-6H2,1H3
